US06946491B2
Step A: Preparation of Methyl 2-methoxy-5-acetylbenzoate:
To a stirred solution of Methyl 2-hydroxy-5-acetylbenzoate (12 g, 61.7 mmol) in DMF (200 ml) was added cesium carbonate (24.15 g, 74.1 mmol) and MeI (9.64 g, 68 mmol). The reaction mixture was stirred for 16 hours at 0° C. and then diluted with ethyl acetate, washed with aq Na2S2O5, brine, dried over Na2SO4, filtered and concentrated. The purification was done by flash chromatography on silica gel column (ethyl acetate:hexane 1:2) to provide the title compound as an off white solid.

reactant | Methyl 2-hydroxy-5-acetylbenzoate | 61.7 mmol, 12 g | OC1=C(C(=O)OC)C=C(C=C1)C(C)=O | C10H10O4
reactant | cesium carbonate | 74.1 mmol, 24.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | MeI | 68 mmol, 9.64 g | CI | CH3I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-methoxy-5-acetylbenzoate | COC1=C(C(=O)OC)C=C(C=C1)C(C)=O | C11H12O4
